US07772244B2
3-(Piperidin-4-yl)quinolin-2(1H)-one
3-(1-Benzylpiperidin-4-yl)quinolin-2(1H)-one (1.72 g, 5.40 mmol) was suspended in methanol (70 mL). A catalytic amount of palladium hydroxide (20% on carbon) was added to the mixture. The reaction vessel was placed on a Parr apparatus and charged with 55 psi of hydrogen. The reaction was shaken at room temperature for 5 h. The mixture was removed from the apparatus and filtered. The filtrate was concentrated to give the title compound as white solid in 90% yield. 1H NMR (300 MHz, DMSO-d6): δ 7.65 (s, 1H), 7.64 (d, J=10.61, 1H), 7.41 (t, J=7.50, 1H), 7.26 (d, J=8.05, 1H), 7.13 (t, J=7.32, 1H), 3.02 (d, J=11.71, 2H), 2.82 (t, J=11.89, 2H), 2.58 (t, J=11.71, 2H), 1.73 (t, J=11.71, 2H), 1.42 (m, 2H). Mass spec.: 229.4 (MH)+.

reactant | 3-(1-Benzylpiperidin-4-yl)quinolin-2(1H)-one | 5.40 mmol, 1.72 g | C(C1=CC=CC=C1)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C21H22N2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 70 mL | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | 3-(Piperidin-4-yl)quinolin-2(1H)-one | 90% yield | N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C14H16N2O
